Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dizziness/lightheadedness, palpitations, diaphoresis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ with H/O CAD s/p MI and subsequent coronary 
stenting several years ago at ___, prior tobacco 
use, hypertension, and hyperlipidemia, presenting with several 
months of gradually worsening dyspnea with associated 
diaphoresis, lightheadedness, and nausea. 

Per the ED, his symptoms are usually at rest, but occasionally 
with exertion. He denies chest pain with these episodes, but 
notes that they otherwise feel similar to the symptoms he had 
with his prior MI. These episodes have been increasing in 
frequency over past several months, occur without warning, and 
typically last ___ minutes. Symptoms resolve without 
intervention. 

The patient initially presented to ___ where he had an 
EKG that was unremarkable and negative troponins. He was given a 
full dose aspirin. He was seen by Dr. ___ in Cardiology, who 
felt that the patient should get a non-emergent catheterization, 
rather than stress test. While in the ___, the patient 
developed sharp, intermittent, right sided chest pain. A repeat 
EKG showed no evidence of ischemia, and pain resolved without 
nitroglycerin. Patient felt that this episode was related to his 
back.

In the ___ ED, initial vitals: T 97.6 HR 79 BP 129/77 RR 16 
SaO2 98% on RA. Initial labs notable for: troponin negative x2, 
otherwise unremarkable. ECG showed NSR with no ST segment 
changes.

Upon arrival to the cardiology ward, Mr. ___ reported that 
these episodes have been getting longer and more frequent. 
Associated with these episodes, he also reports that he gets 
some leg weakness, shaking, and sweating. He reports they were 
lasting ___ minutes vs ___ minutes.

He reports that when he had his prior heart attack, he was 
having fatigue, increased shortness of breath and shaking. He 
reports it is "almost the same thing." He reports everything he 
feels feels exactly like his heart attack, but he had some pain 
in his back/between shoulder blades.

He reports a recent sinus infection with congestion that has 
cleared up. He reports nausea and diarrhea for few days.
 
Past Medical History:
1. CAD RISK FACTORS  
- Hypertension
- Hyperlipidemia

2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: see below
- PACING/ICD: Unknown
- MI ___ he reports he had stent placed at that time
per card in patient's wallet: Resolute Integrity RRD 2.5 mm x 18 
mm Ramus placed ___

3. OTHER PAST MEDICAL HISTORY  
- Hernia operation at ___ ___ years ago
 
Social History:
___
Family History:
Mother--osteoporosis, spinal stenosis, kyphoplasty, glaucoma
Maternal aunt--MI in her late ___
Father--passed away from ___
Paternal grandfather--unknown cancer
 
Physical Exam:
On admis
GENERAL: Well-appearing middle aged white man, resting 
comfortably in bed in NAD
VITALS: T 98.4 BP 143/83 HR 82 RR 16 SaO2 96% on RA
HEENT: NC/AT, EOMI, PERRL, anicteric sclera, mucous membranes 
moist
NECK: Supple with no JVD at 90 degrees
CARDIAC: Difficult to auscultate, RRR, normal S1/S2; no murmurs, 
rubs and gallops
LUNGS: CTAB--breathing comfortably on RA without use of 
accessory muscles; no wheezes, rhonchi, rales/crackles
ABDOMEN: Soft, non-tender to palpation, non-distended, active 
bowel sounds 
EXTREMITIES: No cyanosis, clubbing, no edema; 2+ DPs
SKIN: Warm and well-perfused
NEURO: Alert, oriented, CN II-XII intact

At discharge
GENERAL: Well-appearing gentleman, resting comfortably in bed in 
NAD
VITALS: T 98.3, BP 101/68, HR 67, RR 18, SaO2 95% on RA
HEENT: NC/AT, anicteric sclera
NECK: Supple with no JVD at 90 degrees 
CARDIAC: RRR, normal S1/S2; no murmurs, rubs or gallops
LUNGS: CTAB--breathing comfortably on RA without use of 
accessory muscles; no wheezes, rhonchi, rales/crackles
ABDOMEN: Soft, non-tender to palpation, non-distended, active 
bowel sounds 
EXTREMITIES: No cyanosis, clubbing, or edema; 2+ DPs
SKIN: Warm and well-perfused
NEURO: Alert, oriented, CN II-XII intact
 
Pertinent Results:
___ 04:45PM BLOOD WBC-8.7 RBC-5.48 Hgb-16.0 Hct-47.3 MCV-86 
MCH-29.2 MCHC-33.8 RDW-11.9 RDWSD-37.2 Plt ___
___ 04:45PM BLOOD Neuts-74.4* Lymphs-17.9* Monos-6.8 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-6.44* AbsLymp-1.55 
AbsMono-0.59 AbsEos-0.03* AbsBaso-0.03
___ 04:45PM BLOOD Glucose-151* UreaN-21* Creat-1.1 Na-138 
K-4.7 Cl-100 HCO3-28 AnGap-10

___ 07:35PM BLOOD cTropnT-<0.01
___ 04:45PM BLOOD cTropnT-<0.01

___ 09:28AM BLOOD %HbA1c-6.3* eAG-134*
___ 07:55AM BLOOD Triglyc-162* HDL-33* CHOL/HD-7.1 
LDLcalc-170*
___ 07:55AM BLOOD TSH-3.8
___ 07:32AM BLOOD Cortsol-14.4

___ 07:55AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ Blood cultures 2 sets negative

___ 07:32AM BLOOD WBC-7.1 RBC-5.26 Hgb-15.5 Hct-45.6 MCV-87 
MCH-29.5 MCHC-34.0 RDW-12.2 RDWSD-38.5 Plt ___
___ 07:32AM BLOOD Glucose-119* UreaN-24* Creat-1.1 Na-139 
K-4.4 Cl-102 HCO3-24 AnGap-13
___ 07:32AM BLOOD ALT-26 AST-18 LD(LDH)-156 AlkPhos-54 
TotBili-0.7
___ 07:32AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.1

Exercise Stress Echocardiogram (___):
This ___ yo man with h/o CAD, s/p stent to Ramus ___, was 
referred to the lab from the inpatient floor following negative 
serial cardiac enzymes for evaluation of anginal symptoms. The 
patient exercised for 8.25 minutes of a Modified ___ protocol 
and was stopped for fatigue. The estimated peak MET capacity was 
6.3, which represents a fair exercise tolerance for his age. 
There were no reports of chest, back, neck, or arm discomforts 
during exercise. During mid-recovery, the patient reported 
palpitations which correlated with isolated VPBs. There were no 
significant ST changes noted during exercise or recovery. Rhythm 
was sinus with rare isolated VPBs during recovery. There was a 
blunted heart rate response to exercise in the presence of beta 
blockade. There was an appropriate blood pressure response 
during exercise and recovery.
IMPRESSION: No anginal type symptoms or ischemic EKG changes to 
achieved workload. Fair functional capacity. Palpitations during 
recovery correlating with VPBs. Normal blood pressure with 
blunted heart rate response to exercise. 
Imaging: No ECG or 2D echocardiographic evidence of inducible 
ischemia to achieved workload. Suboptimal study - target heart 
rate not achieved.
 
Brief Hospital Course:
Mr. ___ is a ___ with H/O CAD s/p MI and subsequent ramus 
drug-eluting stenting in ___, prior tobacco use, 
hypertension and hyperlipidemia, presenting with several months 
of intermittent dyspnea with associated diaphoresis, 
lightheadedness, weakness and nausea increasing in frequency 
concerning for unstable angina. Episodes last from ___ minutes 
and resolve on their own. He stated that they feel somewhat like 
his prior heart attack.

Troponins were normal. No ischemic changes were observed on EKG 
and no arrhythmias on telemetry with the episodes described 
above. He underwent stress echocardiogram on ___ with fair 
functional exercise capacity for age and gender. No ECG or 2D 
echocardiographic evidence of inducible ischemia was detected at 
the achieved workload. He had normal blood pressure with blunted 
heart rate response to exercise. Unfortunately, the study was 
suboptimal as the target heart rate not achieved. Testing for 
systemic causes of these symptoms including TSH, chem 10, and AM 
cortisol were all normal. In terms of cardiac risk 
stratification, patient does have pre-diabetes (A1c of 6.3) and 
hyperlipidemia (TC: 235 TRIG: 162 HDL:33 LDL:170). He was 
started on aspirin 81 and rosuvastatin 20 mg daily for 
hyperlipidemia with previously diagnosed CAD and was discharged 
with cardiology and PCP follow up.

TRANSITIONAL ISSUES:
[ ] The patient was started on rosuvastatin 20 mg daily without 
adverse reaction. LFTs normal on initiation, please continue to 
monitor lipids. 
[ ] The patient was started on aspirin 81 daily for known 
history of coronary artery disease
[ ] New diagnosis of pre-diabetes with A1c of 6.3, please 
continue to encourage lifestyle changes and repeat in ___ 
months.
[ ] Please ensure that the patient is up to date with cancer and 
exposure screening (colonoscopy, PSA, PPD, lyme) as symptoms may 
be consistent with occult malignancy or underlying infection
[ ] Patient may benefit from neurology referral for work up of 
neurologic causes of his intermittent weakness. 

#CODE STATUS: Full code
#CONTACT: ___ 
___: Son
Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 50 mg PO BID 
2. Clopidogrel 75 mg PO DAILY 
3. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Rosuvastatin Calcium 20 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
5.  Metoprolol Tartrate 50 mg PO BID  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Chest pain without objective evidence of spontaneous or 
inducible ischemia
-Coronary artery disease with prior myocardial infarction and 
stenting
-Hyperlipidemia
-Hypertension
-Dizziness/lightheadedness
-Palpitations
-Diaphoresis
-Pre-diabetes mellitus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___. 

WHY YOU WERE ADMITTED:
You were admitted because you came to the emergency department 
with chest pain and were admitted to make sure you did not have 
a heart attack.

WHAT HAPPENED WHILE YOU WERE HERE: 
- We monitored your heart rate and vitals during your chest pain 
/ weakness episodes. Fortunately, you did not have any evidence 
of abnormal heart rhythm or drop in blood pressure during these 
episodes. 
- We tested your blood for signs of heart attack, infection, or 
electrolyte abnormality and everything looked normal. 
- We did a stress echocardiogram and EKG that did not show any 
evidence of active heart disease 
- You were diagnosed with pre-diabetes and elevated cholesterol. 

- You were started on Crestor (Rosuvastatin) for your high 
cholesterol. It is important to continue this medication to 
prevent plaque build up in your blood vessels. 

WHAT YOU SHOULD DO WHEN YOU LEAVE HERE:
- Please follow up with your primary care doctor and your 
cardiologist at the appointments scheduled below.  
- please take all of your medications as prescribed 
  * NEW MEDICATIONS: 
    - Rosuvastatin Calcium 20 mg PO QPM (this was started for 
your high cholesterol)
    - Aspirin 81 mg PO/NG DAILY (this was started for your heart 
disease)

We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___